US07504412B2
5-(6-Fluoropyridin-3-yl)pyrimidine-2-carboxylic acid
Conducting the operations similar to those of Production Example 14 using 5-bromopyrimidine-2-carboxylic acid and 6-fluoro-3-pyridineboronic acid, the title compound was obtained as white solid.

reactant | 5-bromopyrimidine-2-carboxylic acid | BrC=1C=NC(=NC1)C(=O)O | C5H3BrN2O2
reactant | 6-fluoro-3-pyridineboronic acid | FC1=CC=C(C=N1)B(O)O | C5H5BFNO2
product | 5-(6-Fluoropyridin-3-yl)pyrimidine-2-carboxylic acid | FC1=CC=C(C=N1)C=1C=NC(=NC1)C(=O)O | C10H6FN3O2
